US06399629B1
(C) trans-4-Azido-N-tert-Butoxycarbonyl-D-Proline Methyl Ester
Sodium azide (515 mg) was added to a stirred solution of N-tert-butoxycarbonyl-cis-4-(p-toluenesulfonyloxy)-D-proline methyl ester (B, 1.65 g) in N,N-dimethylformamide (10 mL)-water (2 mL). After stirring at 80-90° C. for 1 hr, the solvents were removed in vacuo. The residue was diluted with ethyl acetate and washed with water and brine. The organic layer was dried over anhydrous sodium sulfate and evaporated in vacuo to give the title compound (1.04 g) as a colorless oil.

reactant | Sodium azide | 515 mg | [N-]=[N+]=[N-].[Na+]
reactant | N-tert-butoxycarbonyl-cis-4-(p-toluenesulfonyloxy)-D-proline methyl ester | 1.65 g | COC([C@@H]1N(C[C@@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)C(=O)OC(C)(C)C)=O | C18H25NO7S
reactant | water | 2 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | trans-4-Azido-N-tert-Butoxycarbonyl-D-Proline Methyl Ester | 1.04 g | COC([C@@H]1N(C[C@H](C1)N=[N+]=[N-])C(=O)OC(C)(C)C)=O | C11H18N4O4
